US07384936B2
(R) or (S)-5,6-dihydro-5-[(2-oxo-1-piperidinyl)methyl]-3-(3-pyridyl)-4H-1,2,4-oxadiazine
2.5 g (9.6 mmol) of (−)-5,6-dihydro-5-(1-piperidinyl)-methyl-3-(3-pyridyl)-4H-1,2,4-oxadiazine is dissolved in 150 ml of 1% acetic acid, and to the solution 17.86 g (47.99 mmol) of ethylenediamine-tetraacetic acid disodium salt dihydrate, and 15.3 g (48 mmol) mercury(II)-acetate is added, and the reaction mixture is boiled for 2 hours while stirring. Then the reaction mixture is filtered, the filtrate is evaporated, to the residue 500 ml of methanol, and then in small portions 17.5 g (0.46 mol) sodium-[tetrahydrido-borate(III)] is added while stirring. After addition of the borohydride its excess is decomposed with 1:1 aqueous hydrochloric acid (pH=3), then the pH of the reaction mixture is set to 10 with 10% NaOH solution. The methanol is evaporated from the reaction mixture, and then the aqueous phase is extracted 3 times with 150 ml of chloroform. The combined chloroform phases are washed first with 100 ml of water, then with 50 ml of brine, the organic phase is dried over magnesium-sulfate, filtered and evaporated. The obtained oil (2 g) is purified by column chromatography (Kieselgel 60, eluent: 1:1 mixture of chloroform and methanol), and crystallized with a mixture of ethylacetate and ether (by the addition of very little amount of ethanol). 0.94 g (35.7%) pure material is obtained.

reactant | (−)-5,6-dihydro-5-(1-piperidinyl)-methyl-3-(3-pyridyl)-4H-1,2,4-oxadiazine | 9.6 mmol, 2.5 g | N1(CCCCC1)C1N(C(=NOC1)C=1C=NC=CC1)C | C14H20N4O
reactant | ethylenediamine-tetraacetic acid disodium salt dihydrate | 47.99 mmol, 17.86 g | O.O.[Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O
reactant | borohydride | [BH4-]
reactant | hydrochloric acid | pH=3 | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | mercury(II)-acetate | 48 mmol, 15.3 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | (S)-5,6-dihydro-5-[(2-oxo-1-piperidinyl)methyl]-3-(3-pyridyl)-4H-1,2,4-oxadiazine | 0.94 g, 35.7% | O=C1N(CCCC1)C[C@@H]1NC(=NOC1)C=1C=NC=CC1 | C14H18N4O2
